US07595327B2
According to the procedure of Example 53, Step 3, using methyl (1S,2R)-2-amino-1-ethylcyclopentanecarboxylate (410 mg, 1.97 mmol) and 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride (917 mg, 2.39 mmol), methyl (1S,2R)-1-ethyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate (609 mg, 1.26 mmol, 64%) was obtained as a colorless solid after purification via column chromatography on silica gel, eluting with 30% ethyl acetate/hexanes. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.80-0.86 (m, 3H) 1.37-1.41 (m, 1H) 1.42-1.48 (m, 2H) 1.50-1.55 (m, 1H) 1.58-1.65 (m, 2H) 1.71-1.82 (m, 2H) 2.12 (ddd, J=12.76, 8.72, 3.54 Hz, 1H) 2.75-2.77 (m, 3H) 3.42 (td, J=9.79, 7.71 Hz, 1H) 3.69-3.71 (m, 3H) 5.57 (s, 2H) 5.64 (d, J=9.60 Hz, 1H) 7.09-7.13 (m, 2H) 7.43 (s, 1H) 7.56 (ddd, J=8.34, 7.07, 1.26 Hz, 1H) 7.74 (ddd, J=8.40, 7.01, 1.52 Hz, 1H) 7.83-7.92 (m, 3H) 8.10 (d, J=7.83 Hz, 1H).

reactant | methyl (1S,2R)-2-amino-1-ethylcyclopentanecarboxylate | 1.97 mmol, 410 mg | N[C@H]1[C@](CCC1)(C(=O)OC)CC | C9H17NO2
reactant | 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride | 2.39 mmol, 917 mg | Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl
product | methyl (1S,2R)-1-ethyl-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate | 1.26 mmol, 609 mg, 64% | C(C)[C@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC | C26H30N2O5S
